US07563805B2
tert-Butyl(R)-1-benzyloxycarbonyl-3-methyl-4-oxopyrrolidine-3-carboxylate
To a solution of oxalyl chloride (1.01 mL, 11.7 mmol) in dichloromethane (40 mL), a solution of dimethyl sulfoxide (1.11 mL, 15.6 mmol) in dichloromethane (5 mL) was added at −78° C., and the mixture was stirred for 10 minutes. After adding a solution of tert-butyl(R)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate (1.97 g, 5.87 mmol) in dichloromethane (15 mL) and stirring the mixture for 1 hour, triethylamine (5.98 mL, 42.9 mmol) was added, and the mixture was stirred −78° C. for 30 minutes and in an ice bath for 30 minutes. To the reaction mixture were added saturated aqueous solution of ammonium chloride (50 mL) and water (100 mL), and the mixture was extracted with ethyl acetate (200 mL×2). The organic layer was washed with water (100 mL) and saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate=10:1→3:2) to obtain 1.68 g (85.8%) of the title compound as a colorless oily substance.

reactant | oxalyl chloride | 11.7 mmol, 1.01 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 15.6 mmol, 1.11 mL | CS(=O)C | C2H6OS
reactant | tert-butyl(R)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate | 5.87 mmol, 1.97 g | C(C1=CC=CC=C1)OC(=O)N1C[C@](C(C1)O)(C(=O)OC(C)(C)C)C | C18H25NO5
reactant | triethylamine | 42.9 mmol, 5.98 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | tert-Butyl(R)-1-benzyloxycarbonyl-3-methyl-4-oxopyrrolidine-3-carboxylate | 1.68 g, 85.8% | C(C1=CC=CC=C1)OC(=O)N1C[C@](C(C1)=O)(C(=O)OC(C)(C)C)C | C18H23NO5
